US04888427
Preparation of 3-Hydroxymethyl-6-methoxyquinoline
To a suspension of 5.9 g (25 mmol) of 3-ethoxycarbonyl-6-methoxyquinoline in 120 mL of 1:1 toluene/methylene chloride were added dropwise at -50° C., 36.7 mL (55 mmol) of diisobutylaluminium hydride as a 1.5M solution in toluene. The reaction mixture was gradually warmed to room temperature. To this mixture were added about 4 mL of methanol to quench excess reducing agent, and then water was added with vigorous stirring. After 30 minutes, 150 mL of ethyl acetate and anhydrous magnesium sulfate were added and the mixture was stirred for an additional 30 minutes. The solid was removed by filtration and washed thoroughly with ethyl acetate. The filtrate and washings were combined and evaporated in vacuo. The residue was chromatographed on silica gel, using first ethyl acetate and then 2% ethanol in ethyl acetate as eluents, to give 1.72 g (36.4%) of the title compound as a solid which melts at 92°-93° C. after crystallization from a mixture of benzene and isopropyl ether. TLC Rf =0.17 (ethyl acetate); NMR (CDCl3) δ 8.6 (1H, d), 7.9 (2H, m), 7.3 (1H, q), 6.95 (1H, d), 4.8 (2H, s), 3.85 (3H, s); IR (KBr) ν 3070, 1625, 1500, 1215 cm-1.

reactant | 3-ethoxycarbonyl-6-methoxyquinoline | 25 mmol, 5.9 g | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1)OC | C13H13NO3
reactant | diisobutylaluminium hydride | 55 mmol, 36.7 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | about 4 mL | CO | CH4O
solvent | toluene methylene chloride | 120 mL | C1(=CC=CC=C1)C.C(Cl)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Hydroxymethyl-6-methoxyquinoline | 1.72 g, 36.4% | OCC=1C=NC2=CC=C(C=C2C1)OC | C11H11NO2
